US08058444B2
Di-tert-butyl(3-(3-(4-((pyridin-2-yloxy)methyl)benzyl)isoxazol-5-yl)pyridin-2-yl)imidodicarbonate
Under stirring at 50° C, to a solution of di-tert-butyl(3-ethinyl pyridin-2-yl)imidodicarbonate described in Preparation Example 3-1-1 (2.0 g), 2-(4-(2-nitro-ethyl)-benzyloxy) pyridine described in Preparation Example 1-3-4 (2.44 g), triethylamine (0.086 uL) and tetrahydrofuran (20 mL) was added phenyl isocyanate (2.8 mL) divided into four portions over 5.5 hours. After the additions were finished, stirring was carried out at 50° C for another two hours. NH-silica gel was added to the reaction solution, and the solvent was concentrated under a reduced pressure. The resulting residue was purified by NH-silica gel column chromatography (heptane:ethyl acetate=3:1). The resulting solution was concentrated under a reduced pressure and purified by silica gel chromatography (heptane:ethyl acetate=3:1 then 2:1) to obtain the title compound (2.2 g).

reactant | di-tert-butyl(3-ethinyl pyridin-2-yl)imidodicarbonate | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=CC=C1C#C | C17H22N2O4
reactant | 2-(4-(2-nitro-ethyl)-benzyloxy) pyridine | [N+](=O)([O-])CCC1=CC=C(COC2=NC=CC=C2)C=C1 | C14H14N2O3
reactant | triethylamine | 0.086 uL | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 2.8 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl(3-(3-(4-((pyridin-2-yloxy)methyl)benzyl)isoxazol-5-yl)pyridin-2-yl)imidodicarbonate | 2.2 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)COC1=NC=CC=C1 | C31H34N4O6
